US08648081B2
Stir a mixture of 1-(4-chlorobenzo[b]thiophen-2-yl)-3-(3,5-dichlorophenyl)-4,4,4-trifluorobut-2-en-1-one (1.05 g, crude, 2.43 mmol), NaOH (389 mg, 9.72 mmol) and NH2OH—HCl (335 mg, 4.8 mmol) in MeOH (8 mL) and water (8 mL) at ambient temperature for 4 hours. After removal of solvent under vacuum, dilute the residue with ice water (20 mL). Extract the aqueous mixture with EtOAc (15 mL×3). The combined organic layers are washed with brine, dried over anhydrous Na2SO4 and concentrated under vacuum. Purify the residue by preparative HPLC to afford 3-(4-chlorobenzo[b]thiophen-2-yl)-5-(3,5-dichlorophenyl)-5-(trifluoromethyl)-4,5-dihydroisoxazole as white solid (305 mg, 28.1%). MS (m/z): 450 (M+1). 1H NMR (400 MHz, CDCl3) δδ 7.74 (d, J=8.0, 1H), 7.64-7.60 (s, 1H), 7.57-7.53 (m, 2H), 7.47-7.43 (m, 1H), 7.40-7.32.

reactant | 1-(4-chlorobenzo[b]thiophen-2-yl)-3-(3,5-dichlorophenyl)-4,4,4-trifluorobut-2-en-1-one | 2.43 mmol, 1.05 g | ClC1=CC=CC=2SC(=CC21)C(C=C(C(F)(F)F)C2=CC(=CC(=C2)Cl)Cl)=O | C18H8Cl3F3OS
reactant | NaOH | 9.72 mmol, 389 mg | [OH-].[Na+]
reactant | NH2OH—HCl | 4.8 mmol, 335 mg | NO.Cl
solvent | MeOH | 8 mL | CO | CH4O
solvent | water | 8 mL | O | H2O
product | 3-(4-chlorobenzo[b]thiophen-2-yl)-5-(3,5-dichlorophenyl)-5-(trifluoromethyl)-4,5-dihydroisoxazole | 305 mg, 28.1% | ClC1=CC=CC=2SC(=CC21)C2=NOC(C2)(C(F)(F)F)C2=CC(=CC(=C2)Cl)Cl | C18H9Cl3F3NOS
